US07635711B2
A mixture of 500 mg (1.5 mmol) of 1-benzenesulfonyl-3-bromo-1H-indole, 245 mg (2.0 mmol) of phenylboronic acid, 42 mg (0.04 mmol) of Pd[(Ph3P)]4 in 10 mL of toluene, 5 mL of ethanol, and 3 mL of 2 M aqueous sodium carbonate solution was warmed at reflux overnight. The mixture was then cooled and diluted with 15 mL of saturated aqueous ammonium chloride solution and extracted with three 15 mL portions of ethyl acetate. The combined organic layers were washed with three 10 mL portions of saturated aqueous ammonium chloride solution and 10 mL of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was adsorbed onto silica gel and chromatographed on silica gel eluting with ethyl acetate-hexanes (2:98) to afford 235 mg (47%) of 1-benzenesulfonyl-3-phenyl-1H-indole.

reactant | 1-benzenesulfonyl-3-bromo-1H-indole | 1.5 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)Br | C14H10BrNO2S
reactant | phenylboronic acid | 2.0 mmol, 245 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ammonium chloride | 15 mL | [Cl-].[NH4+]
product | 1-benzenesulfonyl-3-phenyl-1H-indole | 235 mg, 47% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C20H15NO2S
